US08030354B2
To a flask containing 3-cyclopropyl-3-(3-hydroxyphenyl)propanoic acid 66.6V (1.2 g, 5.8 mmol) in MeOH (15 mL) was added H2SO4 (0.31 mL, 5.8 mmol). The resulting mixture was stirred at reflux overnight. The reaction was concentrated and purified by combiflash chromatography (0 to 30% EtOAc/Hexanes) to provide methyl 3-cyclopropyl-3-(3-hydroxyphenyl)propanoate 66.6W (1.2 g, 94%). Chiral separation was accomplished on Chiracel-OD (3% IPA in hexane) to provide 66.6X and 66.6Y. Peak 1 was the desired enantiomer. Analytical column (Chiracel-OD (2% IPA in hexane-45 min run) Peak 1-22.5 mins, Peak 2-34.0 mins).

reactant | 3-cyclopropyl-3-(3-hydroxyphenyl)propanoic acid | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)O | C12H14O3
reactant | H2SO4 | 5.8 mmol, 0.31 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 15 mL | CO | CH4O
product | methyl 3-cyclopropyl-3-(3-hydroxyphenyl)propanoate | C1(CC1)C(CC(=O)OC)C1=CC(=CC=C1)O | C13H16O3
